US09102669B2
To a mixture of 1-(1-(6-(1H-pyrazol-4-yl)pyridazin-3-yl)piperidin-4-yl)-6-fluoroindoline (55 mg, 0.15 mmol, 1.0 equiv) and 2-ethoxyethylbromide (0.17 mL, 1.5 mmol, 10 equiv) was added THF (2 mL) and DMF (0.5 mL). NaH (30 mg, 60% in mineral oil, 0.75 mmol, 5 equiv) was then added. The resulting mixture was stirred at room temperature for 1.5 h and then poured into Et2O/H2O (20 mL/20 mL). The organic layer was washed with brine (20 mL), dried (Na2SO4), and filtered. The solvent was removed and the resulting residue was purified by column using 90-100% EtOAc/hexane as the eluent to yield 1-(1-(6-(1-(2-ethoxyethyl)-1H-pyrazol-4-yl)pyridazin-3-yl)piperidin-4-yl)-6-fluoroindoline.

reactant | 1-(1-(6-(1H-pyrazol-4-yl)pyridazin-3-yl)piperidin-4-yl)-6-fluoroindoline | 0.15 mmol, 55 mg, 1.0 equiv | N1N=CC(=C1)C1=CC=C(N=N1)N1CCC(CC1)N1CCC2=CC=C(C=C12)F | C20H21FN6
reactant | 2-ethoxyethylbromide | 1.5 mmol, 0.17 mL, 10 equiv | C(C)OCCBr | C4H9BrO
reactant | THF | 2 mL | C1CCOC1 | C4H8O
reactant | NaH | 0.75 mmol, 30 mg, 5 equiv | [H-].[Na+]
solvent | Et2O H2O | 20 mL | CCOCC.O
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 1-(1-(6-(1-(2-ethoxyethyl)-1H-pyrazol-4-yl)pyridazin-3-yl)piperidin-4-yl)-6-fluoroindoline | C(C)OCCN1N=CC(=C1)C1=CC=C(N=N1)N1CCC(CC1)N1CCC2=CC=C(C=C12)F | C24H29FN6O
